US07705027B2
To an ice-bath cooled solution of 5-(2,4-bis-benzyloxy-5-phenethyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide (0.109 g, 0.15 mmol) in dichloromethane (4 mL) under a nitrogen atmosphere was added a 1.0M solution of Boron trichloride in dichloromethane (0.45 mL; 0.45 mmol). The reaction mixture was stirred at 0° C. for 20 minutes then at ambient temperature for 3.5 hours. The reaction mixture was re-cooled to 0° C. and quenched by the addition of saturated aqueous sodium hydrogen carbonate solution (5 mL). After stirring for 5 minutes the dichloromethane was removed in vacuo and the residue was partitioned between ethyl acetate (20 mL) and water (20 mL). The phases were separated and the organic phase was washed with water (20 mL), saturated aqueous sodium chloride solution (20 mL) then dried over sodium sulphate. The mixture was filtered and the filtrate solvents were removed in vacuo to afford a light-brown oil which was purified by adsorption onto silica gel then flash chromatography on silica gel (10 g IST) eluting with 0 to 5% methanol in ethyl acetate. This affords a colourless oil which was triturated with 1.0M HCl in diethyl ether solution (5 mL) to afford 5-(2,4-dihydroxy-5-phenethyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide hydrochloride (0.019 g; 24%). LCMS: [M+H]+ 528. 1H NMR (400 MHz, d6-DMSO) □ 1.08 (t, 3H), 2.60 (m, 4H), 2.90-3.30 (m, 6H), 3.67 (m, 2H), 3.87 (m, 2H), 4.30 (s, 2H), 6.46 (s, 1H), 6.84 (s, 1H), 7.05-7.49 (m, 5H), 7.40-7.68 (m, 4H), 8.90 (brs, 1H), 9.67 (s, 1H), 9.89 (s, 1H), 10.75 (brs, 1H).

reactant | 5-(2,4-bis-benzyloxy-5-phenethyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | 0.15 mmol, 0.109 g | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=C(C(=C1)CCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C45H45N3O5
reactant | Boron trichloride | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.45 mmol, 0.45 mL | ClCCl | CH2Cl2
product | 5-(2,4-dihydroxy-5-phenethyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide hydrochloride | 0.019 g, 24% | Cl.C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=C(C(=C1)CCC1=CC=CC=C1)O)O | InChI=1S/C31H33N3O5.ClH/c1-2-32-31(37)29-28(23-11-9-22(10-12-23)20-34-14-16-38-17-15-34)30(39-33-29)25-18-24(26(35)19-27(25)36)13-8-21-6-4-3-5-7-21;/h3-7,9-12,18-19,35-36H,2,8,13-17,20H2,1H3,(H,32,37);1H
